US04131611
To a stirred slurry of 20.6 g of 1-phenylcyclopropane-1,2-dicarboxylic acid in 25 ml of concentrated sulfuric acid at 0° C. is added 15 ml of concentrated nitric acid over 30 minutes. The resultant solution is then stirred at ambient tmperature for 30 minutes and then poured onto ice. The crystalline product is recrystallized from hexane-ethyl acetate to give 1-(p-nitrophenyl)-cyclopropane-1,2-dicarboxylic acid as colorless crystals, m.p. 138°-144° C.

reactant | 1-phenylcyclopropane-1,2-dicarboxylic acid | 20.6 g | C1(=CC=CC=C1)C1(C(C1)C(=O)O)C(=O)O | C11H10O4
reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(p-nitrophenyl)-cyclopropane-1,2-dicarboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1(C(C1)C(=O)O)C(=O)O | C11H9NO6
